US08609656B2
1-[4-(4-Aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride (Table 1, Compound No. 71)
The titled compound can be synthesized from N-(4-chloro-3-(trifluoromethyl)phenyl)hydroxylamine hydrochloride, 4-aminoindol, di-tert-butyl dicarbonate and 4-fluoronitrobenzene by using the same techniques as in Example 70.

reactant | N-(4-chloro-3-(trifluoromethyl)phenyl)hydroxylamine hydrochloride | Cl.ClC1=C(C=C(C=C1)NO)C(F)(F)F
reactant | 4-aminoindol | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | 1-[4-(4-Aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride | Cl.NC1=C2C=CN(C2=CC=C1)C1=CC=C(C=C1)NC(=O)N(O)C1=CC(=C(C=C1)Cl)C(F)(F)F | InChI=1S/C22H16ClF3N4O2.ClH/c23-18-9-8-15(12-17(18)22(24,25)26)30(32)21(31)28-13-4-6-14(7-5-13)29-11-10-16-19(27)2-1-3-20(16)29;/h1-12,32H,27H2,(H,28,31);1H
